US04696964
N,N,O-tribenzylhydroxylamine
A mixture of 13.04 g of benzyloxyaminehydrochloride, 20.0 ml of benzylbromide, and 32.0 g of sodium carbonate in 85 ml of dimethylformamide is stirred at room temperature for four days. The reaction mixture is worked up as in Example I and the crude product is distilled under reduced pressure to afford the title compound as a clear colorless liquid.

reactant | benzyloxyaminehydrochloride | 13.04 g | Cl.C(C1=CC=CC=C1)ON
reactant | benzylbromide | 20.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium carbonate | 32.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | N,N,O-tribenzylhydroxylamine | C(C1=CC=CC=C1)N(OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H21NO
